US07208626B2
5.81 g (14.97 mmol) of tris(pentafluoroethyl)phosphine were added under an inert-gas atmosphere to a solution of 1.68 g (14.97 mmol) of potassium tert-butoxide and 2.72 g (14.93 mmol) of benzophenone in 20 cm3 of dried tetrahydrofuran with cooling using a water bath at such a rate that the temperature of the reaction mixture was about 20° C. The reaction mixture was subsequently stirred for a further hour at room temperature, 20 cm3 of a 0.1 N solution of HCl were added, and the mixture was extracted twice with 75 cm3 of diethyl ether each time. The combined extracts were washed three times with 20 cm3 of water each time and dried over anhydrous magnesium sulfate. The solvent was subsequently distilled off, and the desired product was crystallised from n-hexane, giving 2.8 g of 2,2,3,3,3-pentafluoro-1,1-diphenylpropan-1-ol having a melting point in the range 82–83° C.

reactant | tris(pentafluoroethyl)phosphine | 14.97 mmol, 5.81 g | FC(C(F)(F)F)(F)P(C(C(F)(F)F)(F)F)C(C(F)(F)F)(F)F | C6F15P
reactant | potassium tert-butoxide | 14.97 mmol, 1.68 g | CC(C)([O-])C.[K+]
reactant | benzophenone | 14.93 mmol, 2.72 g | C(C1=CC=CC=C1)(=O)C1=CC=CC=C1 | C13H10O
reactant | HCl | Cl | ClH
solvent | tetrahydrofuran | 20 cm3 | O1CCCC1 | C4H8O
product | 2,2,3,3,3-pentafluoro-1,1-diphenylpropan-1-ol | 2.8 g, yield was 62% | FC(C(O)(C1=CC=CC=C1)C1=CC=CC=C1)(C(F)(F)F)F | C15H11F5O
